US07414049B2
b) (S)-3-Amino-5-(2,2,2-trifluoro-ethyl)-1,3,4,5-tetrahydro-benzo[b][1,4]diazepin-2-one Hydrochloride
In an analogous procedure to that described in Example 1d), the treatment of the [(S)-4-oxo-1-(2,2,2-trifluoro-ethyl)-2,3,4,5-tetrahydro-1H-benzo[b][1,4]diazepin-3-yl]-carbamic acid tert-butyl ester with hydrochlorid acid (37%) in dioxane yielded the title compound as a light yellow solid; MS (m/e): 260 (M+H)+.

reactant | [(S)-4-oxo-1-(2,2,2-trifluoro-ethyl)-2,3,4,5-tetrahydro-1H-benzo[b][1,4]diazepin-3-yl]-carbamic acid tert-butyl ester | C(C)(C)(C)OC(N[C@@H]1C(NC2=C(N(C1)CC(F)(F)F)C=CC=C2)=O)=O | C16H20F3N3O3
reactant | hydrochlorid | Cl | ClH
solvent | dioxane | O1CCOCC1 | C4H8O2
product | (S)-3-Amino-5-(2,2,2-trifluoro-ethyl)-1,3,4,5-tetrahydro-benzo[b][1,4]diazepin-2-one Hydrochloride | Cl.N[C@H]1CN(C2=C(NC1=O)C=CC=C2)CC(F)(F)F | InChI=1S/C11H12F3N3O.ClH/c12-11(13,14)6-17-5-7(15)10(18)16-8-3-1-2-4-9(8)17;/h1-4,7H,5-6,15H2,(H,16,18);1H/t7-;/m0./s1
